US08455660B2
Preparation of N-((1H-benzo[d][1,2,3]triazol-1-yl)methyl)-1-((3-fluoro-4-methylphenyl)sulfonyl)-N-phenylpyrrolidine-2-carboxamide
Under inert atmosphere, to a stirred solution of NaH (5 mg, 0.13 mmol) in 0.20 ml anhydrous DMF at 0° C., was added a solution of parent compound 1-((3-fluoro-4-methylphenyl)sulfonyl)-N-phenylpyrrolidine-2-carboxamide (0.016 g, 0.04 mmol) in 0.20 ml anhydrous DMF. After 1 h at 0° C., a solution of 1-(chloromethyl)-1H-benzotriazole (0.022 g, 0.13 mmol) in 0.20 ml anhydrous DMF was added to the reaction mixture. This mixture was stirred for 16 h, and then solvent was completely removed. The crude was chromatographically purified over SiO2 using Hexane/AcOEt as the eluant, yielding 0.015 g (32%) of the desired product.

reactant | NaH | 0.13 mmol, 5 mg | [H-].[Na+]
reactant | 1-((3-fluoro-4-methylphenyl)sulfonyl)-N-phenylpyrrolidine-2-carboxamide | 0.04 mmol, 0.016 g | FC=1C=C(C=CC1C)S(=O)(=O)N1C(CCC1)C(=O)NC1=CC=CC=C1 | C18H19FN2O3S
reactant | 1-(chloromethyl)-1H-benzotriazole | 0.13 mmol, 0.022 g | ClCN1N=NC2=C1C=CC=C2 | C7H6ClN3
solvent | DMF | 0.20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.20 ml | CN(C)C=O | C3H7NO
product | N-((1H-benzo[d][1,2,3]triazol-1-yl)methyl)-1-((3-fluoro-4-methylphenyl)sulfonyl)-N-phenylpyrrolidine-2-carboxamide | 0.015 g, 32% | N1(N=NC2=C1C=CC=C2)CN(C(=O)C2N(CCC2)S(=O)(=O)C2=CC(=C(C=C2)C)F)C2=CC=CC=C2 | C25H24FN5O3S
